US04062862
16.2 g of safrole was dissolved in 100 ml of chloroform and to the mixture was added dropwise 20.7 g of m-chloroperbenzoic acid dissolved in 500 ml of chloroform at 0°-5° C. The resulting mixture was allowed to stand with slow stirring for 55 hours, while maintaining the temperature at 0° - 5° C. After the completion of the reaction, m-chlorobenzoic acid crystals were filtered and the filtrate was washed twice with 5% sodium hydroxide solution, and then with water. After drying over anhydrous sodium sulfate, the solvent was evaporated to obtain the residue. This was distilled under reduced pressure to give 7.0 g (yield 39.3%) of safrole oxide as colourless oily substance having a boiling point of 108° - 110° C/3 mmHg.

reactant | safrole | 16.2 g | O1COC2=CC(CC=C)=CC=C12 | C10H10O2
reactant | m-chloroperbenzoic acid | 20.7 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | m-chlorobenzoic acid | ClC=1C=C(C(=O)O)C=CC1 | C7H5ClO2
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
product | safrole oxide | 7.0 g, yield 39.3% | O1COC2=CC(CC3CO3)=CC=C12 | C10H10O3
